US04929624
A mixture of 13.1 g (0.058 mole) of beta-methyl-1H-imidazo[4,5-c]quinoline-1-ethanol and 35 ml of acetic anhydride was heated at about 100° C. for two hours. To this solution was added 350 ml of methanol and the solution was stirred for about 0.5 hour. The solution was evaporated in vacuo and the residue was added to a saturated sodium bicarbonate solution. The mixture was extracted with chloroform, the extracts were dried over magnesium sulfate and concentrated to a volume of about 150 ml. To this solution was added 15 g (0.07 mole) of meta-chloroperbenzoic acid. The mixture was stirred for one hour, then washed with chloroform, saturated sodium bicarbonate solution and water. The organic layer was then dried over magnesium sulfate and concentrated by evaporation in vacuo to provide 1-(2-acetoxy-1-methylethyl)-1H-imidazo[4,5-c]-quinolin-5-oxide.

reactant | beta-methyl-1H-imidazo[4,5-c]quinoline-1-ethanol | 0.058 mole, 13.1 g | CC(CO)N1C=NC=2C=NC=3C=CC=CC3C21 | C13H13N3O
reactant | acetic anhydride | 35 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | meta-chloroperbenzoic acid | 0.07 mole, 15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methanol | 350 ml | CO | CH4O
product | 1-(2-acetoxy-1-methylethyl)-1H-imidazo[4,5-c]-quinolin-5-oxide | C(C)(=O)OCC(C)N1C=NC=2C=[N+](C=3C=CC=CC3C21)[O-] | C15H15N3O3
